US06951875B2
trans-2-Styryl-pyridin-4-yl-amine
Under inert atmosphere (Ar) a mixture of palladium-(II)-acetate (0.117 mg, 0.5 mmol) and triphenylphosphine (0.248 g, 0.9 mmol) in DMF (13 ml) was stirred for 30 min at rt. 2-Bromo-pyridin-4-ylamine (0.90 g, 5.2 mmol) (H. J. den Hertog, C. R. Kolder and W. P. Combe, Rec. Trav. Chim., 1951, 70, 591) was added followed by tributyl-styryl-stannane (3.93 g, 10 mmol). After heating at 130° C. for 15 min the solvent was evaporated and the residue partitioned between AcOEt and 3N HCl. The aqueous phase was neutralized with 6N NaOH and extracted with AcOEt. The organic phase was dried with Na2SO4, concentrated and chromatographed (SiO2 with CH2Cl2/CH3OH/NH4OH=140/10/1) to give the title compound (0.40 g, 39%) as a colorless solid. Mp. 164-165° C. (AcOEt), MS: 196 (M+).

reactant | triphenylphosphine | 0.9 mmol, 0.248 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 2-Bromo-pyridin-4-ylamine | 5.2 mmol, 0.90 g | BrC1=NC=CC(=C1)N | C5H5BrN2
reactant | tributyl-styryl-stannane | 10 mmol, 3.93 g | C(CCC)[Sn](C=CC1=CC=CC=C1)(CCCC)CCCC
solvent | DMF | 13 ml | CN(C)C=O | C3H7NO
catalyst | palladium-(II)-acetate | 0.5 mmol, 0.117 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | trans-2-Styryl-pyridin-4-yl-amine | 0.40 g, 39% | C(=C\C1=CC=CC=C1)/C1=NC=CC(=C1)N | C13H12N2
